US07981903B2
A suspension of 2-fluoro-6-({2-[(2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}phenyl)amino]-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (2.78 g, 3.51 mmol) and 1,4-dioxane (100 mL) in a 200 mL sealed flask was stirred in an 85° C. bath for 11 hours. The solution was extracted with ethyl acetate (200 mL) and brine (50 mL). The organic layers were dried over MgSO4, filtered, concentrated onto Celite and purified by SiO2 column chromatography (1-10% MeOH in CH2Cl2 and 0.1% NH4OH) to afford 2-fluoro-6-({2-[(2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}phenyl)amino]-1H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (1.0 g, 1.568 mmol, 44.7% yield). This material was combined in a 100mL round bottomed flask with approximately 600 mg of purified material from another batch. THF (10 mL) was added and the slurry was sonicated for 2 minutes. Ether (30 mL) was added and the slurry was sonicated for 2 minutes. The slurry was filtered and the solid collected. The solid was placed on the high vacuum pump at 0.5 torr for 2 hours to afford 2-fluoro-6-({2-[(2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}phenyl)amino]-1H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (1.4 g, 2.195 mmol). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.48-1.56 (m, 2H), 1.79-1.82 (m, 2H), 2.34-2.39 (m, 1H), 2.57-2.62 (m, 6H), 2.82 (s, 3H), 3.05-3.08 (m, 4H), 3.62-2.65 (m, 2H), 3.77 (s, 3H), 6.17 (s, 1H), 6.43 (dd, J=2.2, 8.7 Hz, 1H), 6.59 (d, J=2.0 Hz, 1H), 6.85-6.91 (m, 2H), 7.34-7.40 (m, 2H), 7.86 (d, J=8.6 Hz, 1H), 7.97 (s, 1H), 8.05 (s, 1H), 8.44 (d, J=8.4 Hz, 1H), 10.41 (s, 1H), 11.26 (s, 1H); ESIMS (M+H)+=638.

reactant | 2-fluoro-6-({2-[(2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}phenyl)amino]-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 3.51 mmol, 2.78 g | FC1=C(C(=O)N)C(=CC=C1)NC=1C2=C(N=C(N1)NC1=C(C=C(C=C1)N1CCC(CC1)N1CCN(CC1)S(=O)(=O)C)OC)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C37H42FN9O6S2
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 2-fluoro-6-({2-[(2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}phenyl)amino]-1H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 1.568 mmol, 1.0 g, 44.7% yield | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C(C=C1)N1CCC(CC1)N1CCN(CC1)S(=O)(=O)C)OC)=NC=C2 | C30H36FN9O4S
